US06486333B1
Synthesis of N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(acetylamino)propyl)ammonium chloride
A 7.21 g (0.05 mol) portion of N-acetyl-N′,N′-dimethyl-1,3-diaminopropane and 150 ml of diethyl ether were put into a flask, and 11.65 g (0.0505 mol) of geranyl chloroacetate was added thereto at 0 to 5° C. spending 10 minutes. The reaction mixture was stirred for 2 hours while cooling on ice to observe precipitation of the product. This was further stirred at 25° C. for 12 hours, and disappearance of the most part of chloroacetate was confirmed by 1H-NMR. Next, the solvent was evaporated under a reduced pressure, and the reaction mixture as the residual viscous oil was dissolved in 20 ml of dichloromethane and slowly added dropwise to 400 ml of diethyl ether which was ice-cooled and vigorously stirred, spending 5 minutes, to effect precipitation of the product as a white solid. Thereafter, in the same manner as described in Inventive Example 1, the title compound (to be referred to as betaine ester (5) hereinafter) was obtained as a light yellow viscous oil. Yield 15.6 g (41.6 mmol; yield 83.2%).

reactant | N-acetyl-N′,N′-dimethyl-1,3-diaminopropane | C(C)(=O)NCCCN(C)C | C7H16N2O
reactant | geranyl chloroacetate | 0.0505 mol, 11.65 g | ClCC(=O)OC\C=C(/C)\CCC=C(C)C | C12H19ClO2
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | N,N-dimethyl-N-geranyloxycarbonylmethyl-N-(3-(acetylamino)propyl)ammonium chloride | yield 83.2% | [Cl-].C[N+](CCCNC(C)=O)(CC(=O)OC\C=C(/C)\CCC=C(C)C)C | InChI=1S/C19H34N2O3.ClH/c1-16(2)9-7-10-17(3)11-14-24-19(23)15-21(5,6)13-8-12-20-18(4)22;/h9,11H,7-8,10,12-15H2,1-6H3;1H/b17-11+;
